US05128352
1-(3-Thienyl)indole
A mixture of indole (16 g, 0.136 M), 3-bromothiophene (24.75 g, 0.146 M), potassium carbonate (20.1 g, 0.146 M) and copper bromide (0.84 g, 0.003 M) in 160 ml of N-methyl-2-pyrrolidinone was stirred and heated to 180° C. (under nitrogen atmosphere) for 42 hours. After this time, the reaction mixture was poured onto 800 ml of water and extracted with ethyl acetate (2×350 ml). The combined ethyl acetate extracts were washed with water, brine, dried over magnesium sulfate, filtered and concentrated in vacuo leaving a dark brownblack oil. The crude reaction product was chromatographed on a silica gel column with hexane/CH2Cl2 3:1 as eluant. Yield=9.14 g of yellow liquid which was homogeneous by thin layer chromatography. MS: M+ =199.

reactant | indole | 0.136 M, 16 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 3-bromothiophene | 0.146 M, 24.75 g | BrC1=CSC=C1 | C4H3BrS
reactant | potassium carbonate | 0.146 M, 20.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 800 ml | O | H2O
solvent | N-methyl-2-pyrrolidinone | 160 ml | CN1C(CCC1)=O | C5H9NO
catalyst | copper bromide | 0.003 M, 0.84 g | [Cu](Br)Br
product | 1-(3-Thienyl)indole | S1C=C(C=C1)N1C=CC2=CC=CC=C12 | C12H9NS
